US07122545B2
0.35 g 4-Methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid and 0.22 g 1,1′-carbonyl-diimidazole in 6 ml DMF were stirred at room temperature for 4 hours. 0.30 g 2-amino-1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-ethanone hydrochloride and 0.18 g triethylamine were added and stirring was continued over night at room temperature. 100 ml water was added and the mixture was extracted with ethylacetate. Chromatography on silicagel with ethylacetate/hexane 1:1 yielded 0.28 g (50%) 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid [2-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-2-oxo-ethyl]-amide as a yellow solid; M.p.: 206–208° C.; MS (ISP): m/e=470 (M+H+).

reactant | 4-Methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid | 0.35 g | COC1=CC=C(C2=C1N=C(S2)C(=O)O)N2CCOCC2 | C13H14N2O4S
reactant | 1,1′-carbonyl-diimidazole | 0.22 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-amino-1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-ethanone hydrochloride | 0.30 g | Cl.NCC(=O)C1=CC2=C(OCCO2)C=C1
reactant | triethylamine | 0.18 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid [2-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-2-oxo-ethyl]-amide | 0.28 g, 50% | O1CCOC2=C1C=CC(=C2)C(CNC(=O)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC)=O | C23H23N3O6S
